US06291514B1
Methyl 5-methylthio-4-[(4-phenylphenyl)amino]thiophene-2-carboxylate: Using a procedure similar to Example 208, step (a), 74.4 mg (0.36 mmol) of methyl 4-amino-5-methylthiothiophene-2-carboxylate was allowed to react with 142.5 mg (2 equiv, 0.72 mmol) of 4-phenylphenyl boronic acid to give 24.5 mg (19.1%) of methyl 4-[(4-phenylphenyl)amino]-5-methylthiothiophene-2-carboxylate. 1H NMR (CDCl3, 400 MHz) δ 2.45 (s, 3H), 3.92 (s, 3H), 6.38 (bs, 1H), 7.08-7.14 (m, 2H), 7.33 (m, 1H), 7.43-7.46 (m, 2H), 7.54-7.60 (m, 4H), 7.82 (s, 1H).

reactant | Methyl 5-methylthio-4-[(4-phenylphenyl)amino]thiophene-2-carboxylate | CSC1=C(C=C(S1)C(=O)OC)NC1=CC=C(C=C1)C1=CC=CC=C1 | C19H17NO2S2
reactant | methyl 4-amino-5-methylthiothiophene-2-carboxylate | 0.36 mmol, 74.4 mg | NC=1C=C(SC1C)C(=S)OC | C7H9NOS2
reactant | 4-phenylphenyl boronic acid | 0.72 mmol, 142.5 mg, 2 equiv | C1(=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO2
product | methyl 4-[(4-phenylphenyl)amino]-5-methylthiothiophene-2-carboxylate | 24.5 mg, 19.1% | C1(=CC=CC=C1)C1=CC=C(C=C1)NC=1C=C(SC1C)C(=S)OC | C19H17NOS2
